US09212190B2
To a solution of 2-[(3R)-12-[(4-[methyl[2-oxo-2-(pyrrolidin-1-yl)ethyl]amino]cyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]ethyl methanesulfonate (107 mg, 0.20 mmol, 1.00 equiv) in DMSO (5 mL) were added NaCN (58.8 mg, 1.20 mmol, 6.00 equiv) and 4-dimethylaminopyridine (2.4 mg, 0.02 mmol, 0.10 equiv) at room temperature. The resulting solution was stirred for 2 h at 80° C. After cooling to room temperature, the reaction was then quenched by the addition of aqueous FeSO4 solution and extracted with DCM. The organic phase was washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with DCM/MeOH (10:1) to give the desired 3-[(3S)-12-[(4-[methyl[2-oxo-2-(pyrrolidin-1-yl)ethyl]amino]cyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]propanenitrile (80 mg, 86%) as a yellow solid. MS (ES): m/z 468 [M+H]+.

reactant | 2-[(3R)-12-[(4-[methyl[2-oxo-2-(pyrrolidin-1-yl)ethyl]amino]cyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]ethyl methanesulfonate | 0.20 mmol, 107 mg, 1.00 equiv | CS(=O)(=O)OCC[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N(CC(N1CCCC1)=O)C | C25H36N4O5S2
reactant | NaCN | 1.20 mmol, 58.8 mg, 6.00 equiv | [C-]#N.[Na+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
catalyst | 4-dimethylaminopyridine | 0.02 mmol, 2.4 mg, 0.10 equiv | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-[(3S)-12-[(4-[methyl[2-oxo-2-(pyrrolidin-1-yl)ethyl]amino]cyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]propanenitrile | 80 mg, 86% | CN(C1CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)CCC#N)CC(N1CCCC1)=O | C25H33N5O2S
